US08044043B2
(E)-6-phenyl-8,9-dihydro-7H-cyclohepta[b]pyridin-9-ol.
TBAF (1.041 mL, 1.041 mmol) was added to the THF (5 mL) solution of (E)-6-phenyl-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridine (0.2049 g, 0.521 mmol) at rt. The reaction was stirred at room temperature for 6 hours. The solvent was removed via vacuum to give the crude product. MS(ESI)[M+H+]=238.25.

reactant | TBAF | 1.041 mmol, 1.041 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | (E)-6-phenyl-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridine | 0.521 mmol, 0.2049 g | C1(=CC=CC=C1)/C/1=C/C=2C(=NC=CC2)C(CC1)O[Si](C(C)C)(C(C)C)C(C)C | C25H35NOSi
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (E)-6-phenyl-8,9-dihydro-7H-cyclohepta[b]pyridin-9-ol | C1(=CC=CC=C1)/C/1=C/C=2C(=NC=CC2)C(CC1)O | C16H15NO
